data/mechanisms/records/IMS9-EQ9.35b.json
{"mechanism_id": "IMS9-EQ9.35b", "species": [{"species_id": "sec_butyl_acetate_molecular_ion_carbonyl_localized", "mapped_smiles": "[CH3:1][C:2](=[O+:3])[O:4][CH:5]([CH3:6])[CH2:7][CH3:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "alkoxycarbonyl_cation_mz101", "mapped_smiles": "[O+:3]#[C:2][O:4][CH:5]([CH3:6])[CH2:7][CH3:8]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "carbon_monoxide", "mapped_smiles": "[C-:2]#[O+:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "sec_butoxy_cation_mz73", "mapped_smiles": "[O+:4][CH:5]([CH3:6])[CH2:7][CH3:8]", "role": "product_ion", "charge": 1, "radical_electrons": 2, "spin_multiplicity": 3, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["sec_butyl_acetate_molecular_ion_carbonyl_localized"]}, {"state_id": "state_mz101", "species_ids": ["alkoxycarbonyl_cation_mz101", "methyl_radical"]}, {"state_id": "state_mz73", "species_ids": ["sec_butoxy_cation_mz73", "carbon_monoxide", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_methyl_loss", "from_state": "state_precursor", "to_state": "state_mz101", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_co_loss", "from_state": "state_mz101", "to_state": "state_mz73", "step_class": "carbon_monoxide_elimination", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_methyl_loss", "support_type": "textbook_proposed", "locator": {"page": 256, "equation": "9.35", "figure": null, "panel": null, "section": "9.4 Esters (row 2, arrow labelled 'alpha(C=O)')"}, "confidence": 0.75, "curator_note": "Row 2, the SAME label as row 1 but a different bond: initiated at the same carbonyl oxygen, this one breaks the C1-C2 bond and expels the ACETYL METHYL, leaving the alkoxycarbonyl acylium the page prints as '(+O#COC4H9)' and labels 'm/z 101'. The prose fixes the arithmetic and the abundance: 'the alternative (M - CH3)+ peak at m/z 101 is small' -- and 116 - 15 = 101. The page prints this product in PARENTHESES, unlike m/z 43 and 87, which is its way of marking the weak channels (recorded, not stored as an intensity). TRIPLE BOND: the acylium is drawn with three parallel strokes and is encoded '[C:2]#[O+:3]' accordingly. ARC COUNT (convention D): ZERO curved arrows anywhere in equation 9.35 -- five reaction arrows, each carrying only a reaction-type label, and no fishhook or two-electron arc on any structure. So EVERY electron move in every record of this equation is curator-supplied, and each is the canonical triple for its reaction type. *** THE PARENTHESISED GROUP IN THE LABEL NAMES THE INITIATING SITE, NOT THE BOND THAT BREAKS. *** This is the one thing an author could get badly wrong here, and the book defines it in its own words on this page: 'Alpha cleavage (Equation 9.35) AT the carbonyl group yields the large m/z 43 ion'; 'This latter peak actually can also be produced by an additional alpha-cleavage reaction INITIATED BY the saturated oxygen atom; a similar cleavage with loss of the largest group produces the significant m/z 87 peak'; and 'Charge-site initiation AT the saturated oxygen, RCOO-R'+. -> RCOO. + R'+'. So alpha(C=O) = initiated at the carbonyl, alpha(C-O) = initiated at the saturated oxygen, i(C-O) = charge-site initiation there. Which bond actually breaks is fixed by the PRINTED PRODUCT in each row, and every one of the five is independently confirmed by mass arithmetic (each ion plus its implied neutral sums to 116.0832) and by the squiggle-marked inset of Figure 9.12 on the facing page, which writes 43, 87 and 101 across the corresponding bonds. SUBSTRATE: sec-butyl acetate, CH3-C(=O)-O-CH(CH3)-C2H5, drawn out with a BRACKET carrying '+.' at its top right and labelled 'm/z 116'. Named on the facing page (PDF 266, printed p255): 'Figure 9.12. Mass spectrum of sec-butyl acetate' and 'The spectrum of sec-butyl acetate (Figure 9.12) illustrates the additional reactions that are possible with such esters.' Same compound as IMS9-EQ9.34, and the atom maps are deliberately the same: 1 = the acetyl methyl, 2 = the acetyl carbon, 3 = the carbonyl oxygen, 4 = the ester (saturated) oxygen, 5 = the methine carbon, 6 = its methyl, 7 = the CH2, 8 = the terminal methyl. *** THE CHARGE AND ODD ELECTRON ARE DRAWN DELOCALISED, SO EACH RECORD LOCALISES THEM WHERE ITS OWN LABEL SAYS. *** The page prints '+.' outside a bracket around the whole structure -- it is NOT on any atom -- so a localization has to be chosen to write a mapped SMILES at all. The reaction-type labels are what choose it: the alpha(C=O) channels put the radical site on the CARBONYL oxygen (map 3) and the alpha(C-O) and i(C-O) channels put it on the SATURATED ester oxygen (map 4). That is disclosed here rather than hidden: two records of this equation therefore store two different localizations of the same drawn molecular ion."}, {"evidence_id": "evidence_step_co_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_co_loss", "support_type": "textbook_proposed", "locator": {"page": 256, "equation": "9.35", "figure": null, "panel": null, "section": "9.4 Esters (row 2, the chained arrow labelled 'i' to m/z 73)"}, "confidence": 0.7, "curator_note": "The bare 'i' arrow chained off m/z 101 -- the only sequential step in the equation. Charge-site loss of carbon monoxide: encoded as the single two-electron move that carries the C2-O4 pair onto C2, which expels neutral CO and leaves the charge on the butoxy oxygen, the '(+OC4H9)' the page labels 'm/z 73'. Even-electron precursor, so no fishhooks (the IMS9-EQ9.26b/9.30a/9.31a precedent); CO is written '[C-:2]#[O+:3]'. Expect the soft lone-pair line on atom 2 (the migrating pair becomes CO's carbon lone pair) and a second one on atom 4, for the reason in the next sentence. *** m/z 73 NEEDS ITS DISCLOSURE READ BEFORE REUSE: a singly bonded O+ has an unfilled valence, so '[O+:4]C...' carries TWO unpaired electrons in RDKit's valence model (and oxenium ions do have triplet ground states). radical_electrons is declared 2 / multiplicity 3 so the declared state and the stored graph agree, with the consequence that this step formally changes total spin -- exactly the situation recorded for the methoxy cation of IMS9-EQ9.31c/9.31d, and the book again prints the ion in parentheses. MEASUREMENTS (convention F): the page labels m/z 116, 43, 101, 73, 87, 101 and 57. Every one matches the exact mass computed from the structure encoded here (116.0832, 43.0178, 101.0597, 73.0648, 87.0441, 101.0597, 57.0699 -- RDKit ExactMolWt, formal charge already applied). No percentage is printed in the equation, so no relative_intensity is stored: the prose's numbers ('the values of [(M - CH3COO)+]/Sigma_ions are 1, 3, and 17%, respectively' for n-, sec- and tert-butyl acetate) are quoted here instead, and note they describe THREE compounds, only one of which is this substrate. *** TWO DIFFERENT IONS ON THIS PAGE ARE BOTH LABELLED m/z 101 *** -- the alkoxycarbonyl acylium +O#C-OC4H9 from the alpha(C=O) row (IMS9-EQ9.35b) and the acetoxy-propylidene oxocarbenium CH3C(=O)O(+)=CH-C2H5 from the alpha(C-O) row (IMS9-EQ9.35d). Both are C5H9O2+, 101.0597: isomers, indistinguishable by mass, and the prose says so explicitly ('This latter peak actually can also be produced by an additional alpha-cleavage reaction'). Disclosed in both records, the same way IMS9-EQ9.25 discloses its two different 'm/z 57' ions."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.0832, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_116", "species_id": "sec_butyl_acetate_molecular_ion_carbonyl_localized", "step_id": null, "observed_mz": 116.0832, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_101", "species_id": "alkoxycarbonyl_cation_mz101", "step_id": "step_alpha_methyl_loss", "observed_mz": 101.0597, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.75}, {"peak_id": "peak_73", "species_id": "sec_butoxy_cation_mz73", "step_id": "step_inductive_co_loss", "observed_mz": 73.0648, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-12T00:00:00Z", "modified_at": "2026-08-12T00:00:00Z"}}
